US04670465
To a solution of 2 g (0.008 mol) of 4-phenoxybut-2-yn-1-ol tetrahydropyranyl ether in 20 ml of 96% ethanol, there was added 1.02 g (0.004 mol) of Pyr/PTS. The reaction mixture was stirred for 2 hours at 55° C.; the solvent was then removed in vacuo and the residue diluted with 20 ml of water and extracted with methylene chloride. The combined extracts were dried and evaporated in vacuo. The residue was purified by column chromatography on 30 g of silica gel, using hexane-ethyl acetate (90:10) as eluant, to yield 4-phenoxybut-2-yn-1-ol, as an oil.

reactant | 4-phenoxybut-2-yn-1-ol tetrahydropyranyl ether | 0.008 mol, 2 g | O1C(CCCC1)OCC#CCOC1=CC=CC=C1 | C15H18O3
reactant | Pyr | 0.004 mol, 1.02 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-phenoxybut-2-yn-1-ol | O(C1=CC=CC=C1)CC#CCO | C10H10O2
